US05254655
A mixture of p-fluoronitrobenzene (2.8 g, 20 mmol), N-methylallylamine (2.10 g, 30 mmol), triethylamine (2.0 g, 20 mmol), and N-methyl-2-pyrrolidinone (NMP) (20 ml) was heated to 60°-70° C. for 5 hours in an oil bath. The mixture was diluted with distilled water (100 ml) and extracted twice with ether. The extracts were washed with distilled water and brine solution, dried over potassium carbonate and concentrated to an oil. The oil was distilled via Kugelrohr apparatus (forecut taken up to 90° C. discarded, 110°-125° C., 0.1 mm Hg) to give 3.70 g (96%) N-allyl-N-methyl-4-nitroaniline. As is, this material failed to undergo clean hydrosilation, possibly due to residual N-methyl-2-pyrrolidinone present. The remaining material was chromatographed on silica with hexane-ethyl acetate (10:1) and distilled again via Kugelrohr apparatus to give a yellow oil that underwent clean hydrosilation.

reactant | p-fluoronitrobenzene | 20 mmol, 2.8 g | FC1=CC=C(C=C1)[N+](=O)[O-] | C6H4FNO2
reactant | N-methylallylamine | 30 mmol, 2.10 g | CC=CCN | C4H9N
reactant | triethylamine | 20 mmol, 2.0 g | C(C)N(CC)CC | C6H15N
reactant | N-methyl-2-pyrrolidinone | 20 ml | CN1C(CCC1)=O | C5H9NO
solvent | water | 100 ml | O | H2O
product | N-allyl-N-methyl-4-nitroaniline | 3.70 g, 96% | C(C=C)N(C1=CC=C(C=C1)[N+](=O)[O-])C | C10H12N2O2
